US06753342B2
2-[4-[(allyloxy)methyl]-1-(4-chlorobenzyl)-1H-indol-3-yl]-2-oxo-N-(5-oxo-2,5-dihydro-3-furanyl)acetamide (239 mg) is dissolved in MeOH/H2O=9/1 (10 ml) then 10% Pd/C (12 mg) and p-toluenesulfonic acid (12 mg) are added. The reaction is refluxed for about 6 h, then it is diluted with DMF and EtOH, the catalyst is filtered on celite and the solvent is removed under reduced pressure. The crude is washed with acetone and filtered. The filtrate is concentrated and the obtained solid is purified by silica gel chromatography (eluent: CH2Cl2/EtOH=95/5) affording 50 mg of pure 2-[1-(4-chlorobenzyl)-4-(hydroxymethyl)-1H-indol-3-yl]-2-oxo-N-(5-oxo-2,5-dihydro-3-furanyl)acetamide. The solid is crystallized from CH3CN affording 63 mg of compound with m.p. 238-240° C.

reactant | 2-[4-[(allyloxy)methyl]-1-(4-chlorobenzyl)-1H-indol-3-yl]-2-oxo-N-(5-oxo-2,5-dihydro-3-furanyl)acetamide | 239 mg | C(C=C)OCC1=C2C(=CN(C2=CC=C1)CC1=CC=C(C=C1)Cl)C(C(=O)NC=1COC(C1)=O)=O | C25H21ClN2O5
reactant | p-toluenesulfonic acid | 12 mg | C1(=CC=C(C=C1)S(=O)(=O)O)C | C7H8O3S
solvent | MeOH H2O | CO.O
solvent | n-hexane AcOEt | 10 ml | CCCCCC.CCOC(=O)C
solvent | DMF | CN(C)C=O | C3H7NO
solvent | EtOH | CCO | C2H6O
catalyst | Pd/C | 12 mg | [Pd] | Pd
product | 2-[1-(4-chlorobenzyl)-4-(hydroxymethyl)-1H-indol-3-yl]-2-oxo-N-(5-oxo-2,5-dihydro-3-furanyl)acetamide | 50 mg | ClC1=CC=C(CN2C=C(C3=C(C=CC=C23)CO)C(C(=O)NC=2COC(C2)=O)=O)C=C1 | C22H17ClN2O5
